US09238631B2
c) Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-{trans-[3-(tosyloxy)cyclobutyl]-oxy}benzyl)-L-glutamate
0.233 g (0.50 mmol) Di-tert-butyl (4S)-4-{4-[trans-(3-hydroxycyclobutyl)oxy]benzyl}-N-(tert-butoxycarbonyl)-L-glutamate, 0.14 g (1 mmol) potassium carbonate and 0.198 g (0.50 mmol) cis-cyclobutane-1,3-diyl bis(4-methylbenzenesulfonate) in 5 ml dimethylformamide were heated for 3.5 h at 100° C. in a microwave. The reaction mixture was diluted with water and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtrated, the solvent was evaporated and the residue was chromatographed on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | Di-tert-butyl (4S)-4-{4-[trans-(3-hydroxycyclobutyl)oxy]benzyl}-N-(tert-butoxycarbonyl)-L-glutamate | 0.50 mmol, 0.233 g | O[C@@H]1C[C@H](C1)OC1=CC=C(C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C29H45NO8
reactant | potassium carbonate | 1 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | cis-cyclobutane-1,3-diyl bis(4-methylbenzenesulfonate) | 0.50 mmol, 0.198 g | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H]1C[C@@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C | C18H20O6S2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-{trans-[3-(tosyloxy)cyclobutyl]-oxy}benzyl)-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O[C@@H]1C[C@H](C1)OS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OC(C)(C)C | C36H51NO10S
